US06251911B1
4.3 ml of dioxane and 872 μl (6.66 mmol) of isobutyl chloroformate are added to a solution of 500 mg (6.66 mmol) of glycine in 14 ml of 2N NaOH solution. The mixture is stirred overnight at RT and then extracted with methylene chloride. The aqueous phase is acidified with 4N HCl solution and extracted twice with methylene chloride. Drying (Na2SO4) and concentration of the extracts by evaporation yield N-isobutyloxycarbonyl-glycine; FAB-MS: (M+H)+=176; 1H-NMR (CDCl3) 8.0 (sb), 6.93 and 5.21 (2m, 1H), 4.02 and 3.88 (2m, each 2H), 1.93 (m, 1H), 0.94 (d, J=7, 6H).

reactant | dioxane | 4.3 ml | O1CCOCC1 | C4H8O2
reactant | isobutyl chloroformate | 6.66 mmol, 872 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | glycine | 6.66 mmol, 500 mg | NCC(=O)O | C2H5NO2
solvent | NaOH | 2N, 14 ml | [OH-].[Na+]
product | N-isobutyloxycarbonyl-glycine | C(C(C)C)OC(=O)NCC(=O)O | C7H13NO4
